US06927228B2
(d) N-Octyl-4′-(2,4-dioxothiazolidin-5-ylidene-methyl)biphenyl-3-carboxamide
1 g (3.1 mmol) of 4′-(2,4-dioxothiazolidin-5-ylidenemethyl)biphenyl-3-carboxylic acid, 15 ml of dimethylformamide, 460 mg (3.4 mmol) of 1-hydroxybenzotriazole and 500 μl (3.1 mmol) of n-octylamine are introduced into a three-necked flask under a stream of nitrogen. At 0° C., 0.59 g (3.4 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride is added portionwise. The mixture is stirred for three days while allowing the temperature to rise. The reaction medium is poured into water and extracted with ethyl acetate, dried over magnesium sulfate, filtered and evaporated. 450 mg (33%) of the desired product are obtained.

reactant | 4′-(2,4-dioxothiazolidin-5-ylidenemethyl)biphenyl-3-carboxylic acid | 3.1 mmol, 1 g | O=C1SC(C(N1)=O)=CC1=CC=C(C=C1)C1=CC(=CC=C1)C(=O)O | C17H11NO4S
reactant | 1-hydroxybenzotriazole | 3.4 mmol, 460 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | n-octylamine | 3.1 mmol, 500 μl | C(CCCCCCC)N | C8H19N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 3.4 mmol, 0.59 g | Cl.CN(CCCN=C=NCC)C
solvent | water | O | H2O
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | N-Octyl-4′-(2,4-dioxothiazolidin-5-ylidene-methyl)biphenyl-3-carboxamide | 450 mg, 33% | C(CCCCCCC)NC(=O)C=1C=C(C=CC1)C1=CC=C(C=C1)C=C1C(NC(S1)=O)=O | C25H28N2O3S
